### PR TITLE
[Merged by Bors] - feat: elementary lemmas aiding computations with `log⁺`, Mark II

### PR DESCRIPTION
**Pull request by kebekus**
Add several elementary lemmas aiding computations with log⁺. Improve the docstrings a little.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 1]
```diff
@@ -95,9 +103,20 @@ theorem monotoneOn_posLog : MonotoneOn log⁺ (Set.Ici 0) := by
 lemma posLog_le_posLog {x y : ℝ} (hx : 0 ≤ x) (hxy : x ≤ y) : log⁺ x ≤ log⁺ y :=
   monotoneOn_posLog hx (hx.trans hxy) hxy
 
+/-- The function `log⁺` commutes with taking powers. -/
+@[simp] lemma posLog_pow {n : ℕ} {x : ℝ} : log⁺ (x ^ n) = n * log⁺ x := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]:
```suggestion
@[simp] lemma posLog_pow (n : ℕ) (x : ℝ) : log⁺ (x ^ n) = n * log⁺ x := by
```

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 2]
```diff
@@ -162,8 +182,22 @@ theorem posLog_sum {α : Type*} (s : Finset α) (f : α → ℝ) :
     rw [posLog_abs]
     apply Finset.single_le_sum (fun _ _ ↦ posLog_nonneg) ht_max.1
 
-/-- Estimate for `log⁺` of a sum. See `Real.posLog_sum` for a variant involving
-multiple summands. -/
+/--
+Variant of `posLog_sum` for norms of elements in normed additive commutative
+groups, using monotonicity of `log⁺` and the triangle inequality.
+-/
+lemma posLog_norm_sum_le {E : Type*} [NormedAddCommGroup E] {α : Type*} (s : Finset α) (f : α → E) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Does this work with `SeminormedAddCommGroup`?

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean [hunk 3]
```diff
@@ -162,8 +182,22 @@ theorem posLog_sum {α : Type*} (s : Finset α) (f : α → ℝ) :
...
+    log⁺ ‖∑ t ∈ s, f t‖ ≤ log s.card + ∑ t ∈ s, log⁺ ‖f t‖ := by
+  calc log⁺ ‖∑ t ∈ s, f t‖
+  _ ≤ log⁺ (∑ t ∈ s, ‖f t‖) := by
+    apply monotoneOn_posLog (by simp) _ (norm_sum_le s f)
+    simp [Finset.sum_nonneg (fun i _ ↦ norm_nonneg (f i))]
+  _ ≤ log s.card + ∑ t ∈ s, log⁺ ‖f t‖ :=
+    posLog_sum s (‖f ·‖)
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: Here's a much shorter proof:
```suggestion
  grw [norm_sum_le, posLog_sum]
```

Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: I am amazed. I did not know about `grw`.

File: Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/SpecialFunctions/Log/PosLog.lean]: It does.

**Comment by kebekus** [comment]
@eric-wieser Thanks. I implemented all your suggestions.

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by kebekus** [comment]
@eric-wieser @sgouezel Thanks!
